US09162986B2
2-[3′-Amino-2-hydroxy-5-(3-pyridin-3-yl-propionylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.015 g, 0.023 mmol), prepared as in Example 10, was dissolved in a mixture of methanol and water and then triethylamine was added to bring the solution to pH 9. The mixture was heated with potassium cyanate (0.018 g, 0.23 mmol) for 12 hour at 40° C., concentrated by evaporation under reduced pressure and the crude product was purified by reversed phase HPLC (acetonitrile gradient) to give 2-[2-hydroxy-5-(3-pyridin-3-yl-propionylsulfamoyl)-3′-ureido-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.01 g). MS. found (M+H+) 599.5, (M−H+) 597.7, calc. 598.17.

reactant | 2-[3′-Amino-2-hydroxy-5-(3-pyridin-3-yl-propionylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.023 mmol, 0.015 g | NC=1C=C(C=CC1)C1=C(C(=CC(=C1)S(NC(CCC=1C=NC=CC1)=O)(=O)=O)C1=NC2=C(N1)C=CC(=C2)C(=N)N)O | C28H25N7O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | potassium cyanate | 0.23 mmol, 0.018 g | [O-]C#N.[K+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-[2-hydroxy-5-(3-pyridin-3-yl-propionylsulfamoyl)-3′-ureido-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.01 g | OC1=C(C=C(C=C1C1=NC2=C(N1)C=CC(=C2)C(=N)N)S(NC(CCC=2C=NC=CC2)=O)(=O)=O)C2=CC(=CC=C2)NC(=O)N | C29H26N8O5S
